US07754759B2
(R)-(7-Benzenesulfonyl-chroman-2-ylmethyl)-methyl-amine (81 mg, 2.6 mmol) and triethylamine (0.2 mL) were added to 0.5 mL NMP and the mixture was cooled to 0° C. with stirring. Methyl 2-bromoacetate (26 uL) was added, and the reaction mixture was stirred for two hours at room temperature, then quenched by addition of water. The mixture was extracted with methylene chloride and the combined organic layers were washed with water and brine, dried (Na2SO4), filtered and contrated under reduced pressure. Purification of the residue by flash chromatography gave 40 mg of (R)-[(7-benzenesulfonyl-chroman-2-ylmethyl)-amino]-acetic acid methyl ester.

reactant | (R)-(7-Benzenesulfonyl-chroman-2-ylmethyl)-methyl-amine | 2.6 mmol, 81 mg | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C2CC[C@@H](OC2=C1)CNC | C17H19NO3S
reactant | triethylamine | 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | Methyl 2-bromoacetate | 26 uL | BrCC(=O)OC | C3H5BrO2
solvent | NMP | 0.5 mL | CN1CCCC1=O | C5H9NO
product | (R)-[(7-benzenesulfonyl-chroman-2-ylmethyl)-amino]-acetic acid methyl ester | 40 mg | COC(CNC[C@@H]1OC2=CC(=CC=C2CC1)S(=O)(=O)C1=CC=CC=C1)=O | C19H21NO5S
